US05532266
A solution of 1 g of N-methyl-N-[(1S)-1-(p-benzyloxyphenyl)-2-((3S)-3-hydroxypyrrolidino)ethyl]-2,2-diphenylacetamide in 25 ml of ethyl acetate is hydrogenated on 0.5 g of 5% Pd-C at 20° and under 1 bar until hydrogen uptake ceases, the mixture is filtered, the filtrate is evaporated, and N-methyl-N-[(1S)-1-(p-hydroxyphenyl)-2-((3S)-3-hydroxypyrrolidino)ethyl]-2,2-diphenylacetamide is obtained.

reactant | N-methyl-N-[(1S)-1-(p-benzyloxyphenyl)-2-((3S)-3-hydroxypyrrolidino)ethyl]-2,2-diphenylacetamide | 1 g | CN(C(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)[C@H](CN1C[C@H](CC1)O)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C34H36N2O3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd-C | 0.5 g | [Pd] | Pd
product | N-methyl-N-[(1S)-1-(p-hydroxyphenyl)-2-((3S)-3-hydroxypyrrolidino)ethyl]-2,2-diphenylacetamide | CN(C(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)[C@H](CN1C[C@H](CC1)O)C1=CC=C(C=C1)O | C27H30N2O3
